US05912258
Synthesis of 4-tert-butoxybenzoic acid
Ethyl 4-hydroxybenzoate (16.6 g), isobutene (25 g), and 95% sulfuric acid (0.5 ml) were stirred in dichloromethane (300 ml) overnight at 0° C. The reaction mixture was washed with 20% sodium carbonate aqueous solution, dried over sodium sulfate anhydride, and then concentrated under a vacuum. The residue was dissolved in ethanol (32 ml) and the solution, with potassium hydroxide (7.5 g) and water (6 ml) added thereto, was refluxed with stirring for 2 hours. The reaction mixture was neutralized with hydrochloric acid and then extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride, and then concentrated under a vacuum. The resulting solid was recrystallized from ethyl acetate to yield 9.3 g of the aimed compound.

reactant | Ethyl 4-hydroxybenzoate | 16.6 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | isobutene | 25 g | C=C(C)C | C4H8
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-tert-butoxybenzoic acid | 9.3 g | C(C)(C)(C)OC1=CC=C(C(=O)O)C=C1 | C11H14O3
